US06747023B1
N-[[l-[[6-(1-Acetoxyethoxy)carbonyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-4-[(5-chloroindol-2-yl)sulfonyl]piperazin-2-yl]acetyl]methanesulfonamide
In ethanol (2 ml) was dissolved N-[[4-[(5-chloroindol-2-yl)sulfonyl]-1-[(4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]piperazin-2-yl]acetyl]methanesulfonamide trifluoroacetate (97 mg), followed by the addition of triethylamine (0.63 ml) and 1-acetoxyethyl p-nitrophenyl carbonate (110 mg). The resulting mixture was stirred at room temperature for 4 hours. The reaction mixture was concentrated under reduced pressure. Methylene chloride was added to the residue. The resulting mixture was washed with water, dried over anhydrous sodium sulfate and distilled to remove the solvent. The residue was purified by chromatography on a silica gel column (methylene chloride:methanol=50:1), whereby the title compound (50 mg) was obtained as a colorless foam.

reactant | N-[[4-[(5-chloroindol-2-yl)sulfonyl]-1-[(4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]piperazin-2-yl]acetyl]methanesulfonamide trifluoroacetate | 97 mg | FC(C(=O)O)(F)F.ClC=1C=C2C=C(NC2=CC1)S(=O)(=O)N1CC(N(CC1)C(=O)C=1SC=2CNCCC2N1)CC(=O)NS(=O)(=O)C
reactant | triethylamine | 0.63 ml | C(C)N(CC)CC | C6H15N
reactant | 1-acetoxyethyl p-nitrophenyl carbonate | 110 mg | C(OC(C)OC(C)=O)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C11H11NO7
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | N-[[l-[[6-(1-Acetoxyethoxy)carbonyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-4-[(5-chloroindol-2-yl)sulfonyl]piperazin-2-yl]acetyl]methanesulfonamide | C(C)(=O)OC(C)OC(=O)C1CC2=C(CN1)SC(=N2)C(=O)N2C(CN(CC2)S(=O)(=O)C=2NC1=CC=C(C=C1C2)Cl)CC(=O)NS(=O)(=O)C | C27H31ClN6O10S3
